US06951879B2
In analogy to example 14.1, Trifluoro-methanesulfonic acid 3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl ester and (1,1-Dimethyl-prop-2-ynyl)-(2-methoxy-ethyl)-methyl-amine were converted to yield {1,1-Dimethyl-3-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-prop-2-ynyl-(2-methoxy-ethyl)-methyl-amine as brown oil, MS: 433 (MH+).

reactant | Trifluoro-methanesulfonic acid 3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl ester | FC(C1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OS(=O)(=O)C(F)(F)F)(F)F | C15H7F6NO3S2
reactant | (1,1-Dimethyl-prop-2-ynyl)-(2-methoxy-ethyl)-methyl-amine | CC(C#C)(C)N(C)CCOC | C9H17NO
product | 1,1-Dimethyl-3-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-prop-2-ynyl-(2-methoxy-ethyl)-methyl-amine | CC(C#CC1=CC2=C(C(=NS2)C2=CC=C(C=C2)C(F)(F)F)C=C1)(C)N(C)CCOC | C23H23F3N2OS
